US07776875B2
Preparation of Intermediate racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-cyano-cyclopentyl-methoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-2,3-dihydro-2,6′-dioxo spiro[indole-3,3′-piperidine]-1-carboxylic acid tert-butyl ester
To a solution of 1-(5-fluoro-2-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene (30 mmol) in toluene (30 mL) was added E/Z-6-Chloro-3-[5-chloro-2-(1-cyano-cyclopentylmethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (6 g, 11.7 mmol). Then the reaction mixture were heated at 70° C. overnight. After the solution was cooled to room temperature, methanol was added. The solution was concentrated and the residue was purified by flash column to give the title compound as a white solid (500 mg).

reactant | 1-(5-fluoro-2-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | 30 mmol | FC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)C | C13H18FNOSi
reactant | Z-6-Chloro-3-[5-chloro-2-(1-cyano-cyclopentylmethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 11.7 mmol, 6 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OCC1(CCCC1)C#N)=O | C27H26Cl2N2O4
reactant | methanol | CO | CH4O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-cyano-cyclopentyl-methoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-2,3-dihydro-2,6′-dioxo spiro[indole-3,3′-piperidine]-1-carboxylic acid tert-butyl ester | 500 mg | C(C)(C)(C)OC(=O)N1C(C2(C(NC(CC2C2=C(C=CC(=C2)Cl)OCC2(CCCC2)C#N)=O)C2=C(C=CC(=C2)F)C)C2=CC=C(C=C12)Cl)=O | C37H36Cl2FN3O5
